US04889871
2,4-Dihydroxy-3-(2-propenyl) acetophenone (Aldrich, 12.5 g, 65 mMol) and methyl 7-(3-iodopropoxy)-8-propylchroman-2-carboxylate (29.9 g, 71.5 mMol) were dissolved in DMF (300 ml) containing powdered potassium carbonate (26.91 g, 195 mMol). The mixture was allowed to stir at room temperature under nitrogen for 8 hours and then partitioned between water and toluene. The organic layer was separated and washed with water and brine and then dried over sodium sulfate. Evaporation of the volatiles in vacuo afforded 36 g of crude product which was chromatographed on Merck 60 silica gel using 5:95 ethyl acetate/toluene as eluant. 25 g of pure methyl 7-[3-[4-acetyl-3-hydroxy-2-(2-propenyl)phenoxy]propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylate were obtained in this manner.

reactant | methyl 7-(3-iodopropoxy)-8-propylchroman-2-carboxylate | 71.5 mMol, 29.9 g | ICCCOC1=CC=C2CCC(OC2=C1CCC)C(=O)OC | C17H23IO4
reactant | potassium carbonate | 195 mMol, 26.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 300 ml | CN(C)C=O | C3H7NO
product | methyl 7-[3-[4-acetyl-3-hydroxy-2-(2-propenyl)phenoxy]propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylate | 25 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C3=C(CCC(O3)C(=O)OC)C=C2)CCC)C=C1)CC=C)O | C28H34O7
